US08309550B2
3-(4-(5-Chloro-7-methyl-1-propyl-1H-pyrrolo[3,2-b]pyridin-3-yl)pyrimidin-2-ylamino)benzenesulfonamide (Compound 42)
A mixture of (E)-1-(5-chloro-7-methyl-1-propyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-3-(dimethylamino)prop-2-en-1-one (0.2 mmol), 3-guanidinobenzenesulfonamide hydrochloride (0.5 mmol) and NaOH (0.8 mmol) in 3 mL of 2-methoxyethanol was heated in a Microwave at 150° C. for 30 minutes. The reaction mixture was purified by column chromatography using EtOAc/PE (1:1, v/v) to elute 3-(4-(5-chloro-7-methyl-1-propyl-1H-pyrrolo[3,2-b]pyridin-3-yl)pyrimidin-2-ylamino)benzenesulfonamide which was re-crystallised from EtOAc to give white solid. 1H-NMR (DMSO-d6) δ: 0.92 (t, 3H, J=7.2 Hz, CH3), 1.87 (m, 2H, CH2), 4.42 (t, 2H, J=7.2 Hz, CH2), 7.19 (s, 1H, Ar—H or Ph-H), 7.34 (s, 2H, NH2), 7.43 (m, 1H, Ar—H or Ph-H), 7.49 (t, 1H, J=7.6 Hz, Ph-H), 7.62 (m, 1H, Ph-H), 8.02 (d, 1H, J=4.8 Hz, Pyrimidin-H), 8.55 (d, 1H J=5.2 Hz, Pyrimidin-H), 8.63 (s, 1H, Ar—H), 9.92 (s, 1H, NH). MS (ESI+) m/z 457.1245 (M+H)+.

reactant | (E)-1-(5-chloro-7-methyl-1-propyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-3-(dimethylamino)prop-2-en-1-one | 0.2 mmol | ClC1=CC(=C2C(=N1)C(=CN2CCC)C(\C=C\N(C)C)=O)C | C16H20ClN3O
reactant | 3-guanidinobenzenesulfonamide hydrochloride | 0.5 mmol | Cl.N(C(=N)N)C=1C=C(C=CC1)S(=O)(=O)N
reactant | NaOH | 0.8 mmol | [OH-].[Na+]
solvent | 2-methoxyethanol | 3 mL | COCCO | C3H8O2
product | 3-(4-(5-Chloro-7-methyl-1-propyl-1H-pyrrolo[3,2-b]pyridin-3-yl)pyrimidin-2-ylamino)benzenesulfonamide | ClC1=CC(=C2C(=N1)C(=CN2CCC)C2=NC(=NC=C2)NC=2C=C(C=CC2)S(=O)(=O)N)C | C21H21ClN6O2S
